US07431913B2
A mixture that contains 1 g (0.77.10−2 mol) of N,N,3,3-tetramethylbutylamine (Aldrich) and 1.917 g (1.16.10−2 mol) of 1-bromo-3,3-dimethylbutane (Prolabo) and about 4 ml of isopropanol is prepared. 1.23 g (1.16.10−2 mol) of sodium carbonate is then added. This suspension is brought to reflux for 2 days at the temperature of 100° C. A white solid appears, and after this period, about 5 ml of diethyl ether is added to the reaction mixture so as to increase the amount of precipitate. The isopropanol and the diethyl ether are then evaporated at 30° C. by means of a rotary evaporator. The organic product that is formed is extracted from the reaction mixture by means of dichloromethane. Three successive extractions with 10 ml of dichloromethane are carried out. The organic phase that is obtained is evaporated by means of a rotary evaporator. The white solid that is formed is washed with dry diethyl ether and filtered on a nylon membrane (Ø=0.2 μm). 0.8 g (0.27.10−2 mol) of N,N-dimethyl-N,N-di(3,3-dimethylbutyl)ammonium bromide (DMDMBA-Br) is then obtained. The nature of the radical that is obtained was verified by nuclear magnetic resonance of the proton; the results of this analysis are provided below. NMR 1H (D2O, 400 MHz, 25° C., δ ppm /TMS): 0.83 (s, 18H), 1.51-1.55 (m, 4H), 2.91 (s, 6H), 3.18-3.23 (m, 4H).

reactant | N,N,3,3-tetramethylbutylamine | 77.10−2 mol, 1 g | CN(C)CCC(C)(C)C | C8H19N
reactant | 1-bromo-3,3-dimethylbutane | 1.917 g | BrCCC(C)(C)C | C6H13Br
reactant | isopropanol | about 4 ml | C(C)(C)O | C3H8O
reactant | sodium carbonate | 1.23 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | diethyl ether | about 5 ml | C(C)OCC | C4H10O
product | N,N-dimethyl-N,N-di(3,3-dimethylbutyl)ammonium bromide | 27.10−2 mol, 0.8 g | [Br-].C[N+](CCC(C)(C)C)(CCC(C)(C)C)C | InChI=1S/C14H32N.BrH/c1-13(2,3)9-11-15(7,8)12-10-14(4,5)6;/h9-12H2,1-8H3;1H/q+1;/p-1
